US03966710
b. N-Acetyl-2-aminomethyl-3-bromomethylthiophene
N-Acetyl-2-aminomethyl-3-methylthiophene is dissolved in carbon tetrachloride and treated with an equimolar amount of N-bromosuccinimide and a catalytic amount of dibenzoyl peroxide. The mixture is heated to reflux for 3 hours while irradiating with a 250 watt light. The mixture is cooled and the precipitated succinimide removed by filtration. The filtrate is washed with saturated sodium bisulphite solution, dried over magnesium sulfate and evaporated to yield the title compound.

reactant | N-Acetyl-2-aminomethyl-3-methylthiophene | C(C)(=O)NCC=1SC=CC1C | C8H11NOS
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-Acetyl-2-aminomethyl-3-bromomethylthiophene | C(C)(=O)NCC=1SC=CC1CBr | C8H10BrNOS
